US07902252B2
To 1,2-dichloroethane (40 mL) was added DMF (13.6 mL, 176 mmol). The mixture was cooled to 0° C. and phosphorus oxychloride (16.4 mL, 176 mmol) was added dropwise over 5 min. The resulting solution was stirred for 15 min. To the solution at 0° C. was added dropwise methyl 1H-pyrrole-2-carboxylate (20 g, 160 mmol) in dichloroethane (80 mL) (about 1 h). The cooling bath was removed, and the reaction mixture was heated to reflux for about 1 h and was then cooled to rt. EtOAc (250 mL) in ice water (400 mL) was added and the organic layer was separated. The aqueous layer was neutralized with NaHCO3 solution, and then extracted with EtOAc (4×100 mL). The organic layer and the combined organic extracts were washed with dilute NaHCO3 solution, brine, dried (Na2SO4) and filtered. Silica gel was added, the solvent removed and the silica gel-imbedded material was purified by flash chromatography (0-50% EtOAc/Heptane) to afford a major product, methyl 5-formyl-1H-pyrrole-2-carboxylate (16.3 g) and a minor product, methyl 4-formyl-1H-pyrrole-2-carboxylate (6.94 g). Combined yield: 23.3 g (95%).

reactant | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
reactant | DMF | 176 mmol, 13.6 mL | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 176 mmol, 16.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl 1H-pyrrole-2-carboxylate | 160 mmol, 20 g | N1C(=CC=C1)C(=O)OC | C6H7NO2
solvent | dichloroethane | 80 mL | ClC(C)Cl | C2H4Cl2
product | methyl 5-formyl-1H-pyrrole-2-carboxylate | 16.3 g | C(=O)C1=CC=C(N1)C(=O)OC | C7H7NO3
